US09193693B2
Step 2. 2-(4-Methoxybenzylamino)propan-1-ol
Into a 250-mL 3-necked round-bottom flask, was placed a solution of (E)-2-(4-methoxybenzylideneamino)propan-1-ol (15 g, 77.72 mmol, 1.00 equiv) in methanol (150 mL). This was followed by the addition of NaBH4 (5.88 g, 155.56 mmol, 2.00 equiv) in several batches at −10-0° C. The resulting solution was stirred for 2 hs at −10-0° C. in an ice/salt bath. The resulting mixture was concentrated under vacuum and diluted with 200 mL of water. The resulting aqueous solution was extracted with 3×100 mL of ethyl acetate and the organic layers was combined and dried over anhydrous magnesium sulfate, concentrated under vacuum. This resulted in 11.1 g (73%) of 2-(4-methoxybenzylamino)propan-1-ol as a white solid.

reactant | (E)-2-(4-methoxybenzylideneamino)propan-1-ol | 77.72 mmol, 15 g, 1.00 equiv | COC1=CC=C(\C=N\C(CO)C)C=C1 | C11H15NO2
reactant | NaBH4 | 155.56 mmol, 5.88 g, 2.00 equiv | [BH4-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | 2-(4-Methoxybenzylamino)propan-1-ol | COC1=CC=C(CNC(CO)C)C=C1 | C11H17NO2
